US04440940
Preparation of 2-[2-(4-tetradecenylamino)phenyl]oxazoline
To a slurry of 15 g. of 2-bromoethylamine hydrobromide in 150 ml. of 1,2-dimethoxyethane are added simultaneously solutions of 31 g. of 2-(4-tetradecenylamino)benzoyl chloride hydrochloride in 60 ml. of 1,2-dimethoxyethane and 50 cc. of triethylamine (dropwise). Upon addition of 0.5 g. of 4-dimethylaminopyridine the mixture is stirred at room temperature overnight. The solution is refluxed for one hour and filtered. The solid is oven dried and partitioned between methylene chloride and water. The layers are separated and the organic phase dried over magnesium sulfate. The organic layer is concentrated and the residue collected and crystallized from cyclohexane and recrystallized from acetonitrile to yield the product.

reactant | 2-bromoethylamine hydrobromide | Br.BrCCN
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | 2-(4-tetradecenylamino)benzoyl chloride hydrochloride | Cl.C(CCC=CCCCCCCCCC)NC1=C(C(=O)Cl)C=CC=C1
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[2-(4-tetradecenylamino)phenyl]oxazoline | C(CCC=CCCCCCCCCC)NC1=C(C=CC=C1)C=1OCCN1 | C23H36N2O
